US07220740B2
5.1. 2-Mercapto-4-methylbenzoxazole.
5 g (41 mmol) of 2-amino-3-methylphenol and 6.51 g (41 mmol) of potassium O-ethyl dithiocarbonate, in suspension in 70 ml of ethanol, are successively introduced into a 500 ml round-bottomed flask and the mixture is heated at reflux for 24 h. The solvent is removed by evaporation under reduced pressure, the residue is taken up-in 50 ml of water and 4 ml of acetic acid are added. The precipitate obtained is filtered off, rinsed with water and dried under vacuum.

reactant | 2-amino-3-methylphenol | 41 mmol, 5 g | NC1=C(C=CC=C1C)O | C7H9NO
reactant | potassium O-ethyl dithiocarbonate | 41 mmol, 6.51 g | C([S-])(OCC)=S.[K+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-Mercapto-4-methylbenzoxazole | SC=1OC2=C(N1)C(=CC=C2)C | C8H7NOS
